.title kicad schematic

.include pmos_osu180.lib
.include nmos_osu180.lib
m2 q1 q vdd vdd pfet W=0.66u L=0.18u M=1
m5 qb q vdd vdd pfet W=0.66u L=0.18u M=1
m3 q1 q gnd gnd nfet W=1.20u L=0.18u M=1
m4 qb q gnd gnd nfet W=1.20u L=0.18u M=1
v1 q gnd  dc 0
v2  vdd gnd 1.8v
* u1  q1 plot_v1
* u4  qb plot_v1
.dc v1 0e-00 1.8e-00 0.1e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
*plot v(q1)
*plot v(qb)
.endc
.end
