.title kicad schematic

.include pmos_osu180.lib
.include nmos_osu180.lib
v4  wl gnd pwl(0n 0 0.5n 1.8 200n 1.8 )
m2 q wl bl gnd nfet W=0.6u L=0.18u M=1
m14 qb wl blb gnd nfet W=0.6u L=0.18u M=1
v3  vdd gnd 1.8v
m9 qb q gnd gnd nfet W=1.20u L=0.18u M=1
m7 q qb gnd gnd nfet W=1.20u L=0.18u M=1
m11 qb q vdd vdd pfet W=0.66u L=0.18u M=1
m6 q qb vdd vdd pfet W=0.66u L=0.18u M=1
m5 q1 qb1 p gnd nfet W=0.81u L=0.18u M=1
m10 qb1 q1 p gnd nfet W=0.81u L=0.18u M=1
m4 q1 qb1 vdd vdd pfet W=1.62u L=0.18u M=1
m12 qb1 q1 vdd vdd pfet W=1.62u L=0.18u M=1
m8 p en gnd gnd nfet W=0.81u L=0.18u M=1
m15 blb en qb1 vdd pfet W=0.2u L=0.18u M=1
v2  en gnd pulse(0 1.8 20.5n 100p 100p 20n 40n)
* u2  qb1 plot_v1
m1 bl en q1 vdd pfet W=0.2u L=0.18u M=1
c2  q1 gnd 1f
c3  qb1 gnd 1f
* u1  q1 plot_v1
m13 blb pr_en vdd vdd pfet W=0.135u L=0.18u M=1
m3 bl pr_en vdd vdd pfet W=0.135u L=0.18u M=1
v5  pr_en gnd pwl(0n 0 200n 0)
v6  qb gnd pulse(0 1.8 40.5n 100p 100p 40n 80n)
v1  q gnd pulse(0 1.8 0.5n 100p 100p 40n 80n)
.tran 10e-09 200e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(qb1)
plot v(q1)
.endc
.end
