.title kicad schematic

.include pmos18.lib
.include nmos18.lib
m3 out en net-_m3-pad3_ gnd nfet W=0.36u L=0.18u M=1
m4 net-_m3-pad3_ in_inv gnd gnd nfet W=0.36u L=0.18u M=1
m1 in_inv in gnd gnd nfet W=0.36u L=0.18u M=1
m5 net-_m5-pad1_ in_inv vdd vdd pfet W=0.72u L=0.18u M=1
m6 out enb net-_m5-pad1_ vdd pfet W=0.72u L=0.18u M=1
m2 in_inv in vdd vdd pfet W=0.72u L=0.18u M=1
v2 vdd gnd  dc 1.8
v1  in gnd pulse(0 1.8 0.5n 0.1n 0.1n 10n 20n)
v3  enb gnd pulse(0 1.8 50.1n 0.1n 0.1n 50n 100n)
v4  en gnd pulse(0 1.8 0.1n 0.1n 0.1n 50n 100n)
* u1  in plot_v1
* u2  in_inv plot_v1
* u3  enb plot_v1
* u4  en plot_v1
* u5 out plot_v1
.tran 10e-09 100e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(in_inv)
plot v(enb)
plot v(en)
plot v(out)
.endc
.end
