.title kicad schematic

.include pmos_osu180.lib
.include nmos_osu180.lib
m4 dbg vdd vdd vdd pfet W=0.63u L=0.18u M=1
m7 net-_m7-pad1_ din gnd gnd nfet W=0.36u L=0.18u M=1
m8 dbg vdd net-_m7-pad1_ gnd nfet W=0.36u L=0.18u M=1
m10 dbg din vdd vdd pfet W=0.63u L=0.18u M=1
m9 dg dinb vdd vdd pfet W=0.63u L=0.18u M=1
m6 dg vdd net-_m5-pad1_ gnd nfet W=0.36u L=0.18u M=1
m5 net-_m5-pad1_ dinb gnd gnd nfet W=0.36u L=0.18u M=1
m12 bblb dbg vdd vdd pfet W=0.63u L=0.18u M=1
m11 bblb dbg gnd gnd nfet W=0.36u L=0.18u M=1
m14 bbl dg vdd vdd pfet W=0.63u L=0.18u M=1
m13 bbl dg gnd gnd nfet W=0.36u L=0.18u M=1
m15 blb bblb gnd gnd nfet W=1.08u L=0.18u M=1
m16 bl bbl gnd gnd nfet W=1.08u L=0.18u M=1
m1 dinb din vdd vdd pfet W=0.63u L=0.18u M=1
m2 dinb din gnd gnd nfet W=0.36u L=0.18u M=1
v2 vdd gnd  dc 1.8
* u1  blb  bl port
m3 dg vdd vdd vdd pfet W=0.63u L=0.18u M=1
v1  din gnd pulse(0 1.8 0.1n 0.2n 0.2n 25n 50n)
m17 bl pr_en vdd vdd pfet W=0.135u L=0.18u M=1
m18 blb pr_en vdd vdd pfet W=0.135u L=0.18u M=1
v3  pr_en gnd pwl(0n 0 0.5n 0  40n 0 40.5n 0 50n 0 50.5n 0 100n 0)
.tran 10e-09 100e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
